US04742057
To a mixture of 2-amino-4-chloromethylthiazole hydrochloride (2 g), anhydrous pyridine (3.2 g) and anhydrous N,N-dimethylformamide (10 ml) was slowly added acetic formic anhydride (1.7 g) with stirring at 0° to 5° C. After one hour of stirring, the reaction mixture was poured into cold water and extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and aqueous sodium chloride solution successively and dried over magnesium sulfate. The solvent was then distilled off and the residue was collected and dried to give 2-formylamino-4-chloromethylthiazole (0.94 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 2 g | Cl.NC=1SC=C(N1)CCl
reactant | pyridine | 3.2 g | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | acetic formic anhydride | 1.7 g | C(=O)OC(C)=O | C3H4O3
solvent | water | O | H2O
product | 2-formylamino-4-chloromethylthiazole | 0.94 g | C(=O)NC=1SC=C(N1)CCl | C5H5ClN2OS
